US05266593
1. (2R-trans)-3-Ethenyl-β-methyloxiranepropanol
To a solution of the title B compound (16.4 g, 64.1 mmol) in tetrahydrofuran (275 mL) was added tetrabutylammonium fluoride (87.5 mL, 96.2 mmol) and the mixture was stirred for one hour at room temperature. After addition of ether (600 mL) the solution was washed four times with water, dried and evaporated to give the crude title compound as a colorless oil (17.8 g). The product was used without further purification in the next step.

reactant | tetrabutylammonium fluoride | 96.2 mmol, 87.5 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ether | 600 mL | CCOCC | C4H10O
reactant | tetrahydrofuran | 275 mL | O1CCCC1 | C4H8O
product | (2R-trans)-3-Ethenyl-β-methyloxiranepropanol | 17.8 g | C(=C)[C@@H]1[C@H](O1)CC(CO)C | C8H14O2
